US07495007B2
Preparation of racemic (2′R,3R,4′S)-4′-(2-amino-5-chloro-phenyl)-6-chloro-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione
The reaction mixture of racemic (2′R,3R,4′S)-6-chloro-4′-(5-chloro-2-nitro-phenyl)-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione (290 mg, 0.65 mmol), Raney Ni (39 mg) and NH2NH2.H2O (320 mg) in methanol was stirred at 80° C. for 0.5 h. The mixture was cooled to 4° C., and concentrated. To the residue were added ethyl acetate (10 mL) and water (10 mL). The organic layer was separated, washed with brine, dried over MgSO4 and concentrated. The residue was purified by column chromatography to give the title compound as a solid (Yield: 260 mg).

reactant | racemic (2′R,3R,4′S)-6-chloro-4′-(5-chloro-2-nitro-phenyl)-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | 0.65 mmol, 290 mg | ClC1=CC=C2C(=C1)NC(C21C(NC(CC1C1=C(C=CC(=C1)Cl)[N+](=O)[O-])=O)C(=C)C)=O | C21H17Cl2N3O4
reactant | NH2NH2.H2O | 320 mg | NN.O
solvent | methanol | CO | CH4O
catalyst | Ni | 39 mg | [Ni] | Ni
product | racemic (2′R,3R,4′S)-4′-(2-amino-5-chloro-phenyl)-6-chloro-2′-isopropenylspiro[3H-indole-3,3′-piperidine]-2,6′(1H)-dione | Yield: 260 mg | NC1=C(C=C(C=C1)Cl)C1C2(C(NC(C1)=O)C(=C)C)C(NC1=CC(=CC=C12)Cl)=O | C21H19Cl2N3O2
